US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-methyl-8,9-dihydro-6H-furo[3,2-f]isoquinolin-7-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 6-Methyl-6,7,8,9-tetrahydro-furo[3,2-f]isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 6-Methyl-6,7,8,9-tetrahydro-furo[3,2-f]isoquinoline | CC1NCCC2=C3C(=CC=C12)OC=C3 | C12H13NO
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-methyl-8,9-dihydro-6H-furo[3,2-f]isoquinolin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=C3C(=C1CC2)C=CO3)C | C19H15BrN4O2
